US05366989
In a mixed solvent consisting of 14 ml of dioxane and 29 ml of a 1N aqueous sodium hydroxide solution was suspended 1.4 g of 1-(4-chlorophenyl)cyclopropanecarboxamide [this compound can be obtained from 1-(4-chlorophenyl)cyclopropanecarboxylic acid produced according to the method described in Chem. Ber., 119, 3694 (1986)]. To the suspension was dropwise added 4.4 g of a 12% aqueous sodium hypochlorite solution at 5°-10° C. The suspension was subjected to reaction at 20°-25° C. for 1 hour. The reaction mixture was introduced into a mixed solvent consisting of 50 ml of ethyl acetate and 50 ml of water. The organic layer was separated, washed with a saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. To the thus treated organic layer was added the dioxane solution obtained in (1) above at 20°-25° C. The resulting mixture was subjected to reaction at the same temperature for 2 hours. The insolubles were removed by filtration. The solvent was removed by distillation under reduced pressure. To the residue obtained were added 50 ml of ethyl acetate and 50 ml of water. The organic layer was separated, washed with a saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue obtained was purified by a column chromatography (eluant: n-hexane/ethyl acetate =15/1) to obtain 0.37 g of N-[1-(4-chlorophenyl)cyclopropyl]-3-(2,4-difluorophenyl)-3,4-epoxy-2,2-difluorobutanamide.

reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | 1-(4-chlorophenyl)cyclopropanecarboxamide | 1.4 g | ClC1=CC=C(C=C1)C1(CC1)C(=O)N | C10H10ClNO
solvent | dioxane | 14 ml | O1CCOCC1 | C4H8O2
product | 1-(4-chlorophenyl)cyclopropanecarboxylic acid | ClC1=CC=C(C=C1)C1(CC1)C(=O)O | C10H9ClO2
